US09034866B2
To a stirred mixture of 9-Bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (5 g, 14.70 mmol) in CCl4 (100 mL) was added AIBN (0.24 g, 1.46 mmol) and NBS (2.88 g, 16.18 mmol). The mixture was heated to reflux overnight. Then the mixture was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography to afford 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (5.8 g, 94%) as a light yellow solid; LC-MS: 422.3 (M+3). 1H NMR (400 MHz, DMSO-d6): δ 8.40 (d, J=2.4 Hz, 1H), 7.53 (dd, J1=8.6 Hz, J2=2.44 Hz, 1H), 7.10 (d, J=8.64 Hz, 1H), 6.34 (d, J=1.8 Hz, 1H), 4.57 (m, 2H), 3.93 (s, 3H)

reactant | 9-Bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 14.70 mmol, 5 g | COC(=O)C=1SC=2CCOC3=C(C2N1)C=C(C=C3)Br | C13H10BrNO3S
reactant | AIBN | 1.46 mmol, 0.24 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 16.18 mmol, 2.88 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 5.8 g, 94% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)Br | C13H9Br2NO3S
